US09315489B2
Stage 24.1 3-Bromo-4-chloro-N-(4-(trifluoromethoxy)phenyl)benzamide
The title compound was prepared in an analogous fashion to that described in Stage 18.1 using 3-bromo-4-chlorobenzoic acid and 4-(trifluoromethoxy)aniline to afford an off-white solid. UPLC-MS (Condition 1) tR=3.38 min, m/z=393.9-395.8 [M+H]+, m/z=391.9-393.9 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.38 (d, J=8.3 Hz, 2H) 7.82 (d, J=8.3 Hz, 1H) 7.87 (d, J=9.0 Hz, 2H) 7.97 (dd, J=8.4, 2.1 Hz, 1H) 8.34 (d, J=2.2 Hz, 1H) 10.55 (s, 1H).

reactant | 3-bromo-4-chlorobenzoic acid | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | 4-(trifluoromethoxy)aniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | 3-Bromo-4-chloro-N-(4-(trifluoromethoxy)phenyl)benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1Cl | C14H8BrClF3NO2
